US07265144B2
Step 1: Preparation of methyl 5-methoxy-2-{methyl[3-methyl-1-(2-methylphenyl)4-phenyl-1H-pyrazol-5-yl]amino}benzoate
To a suspension of NaH (60% dispersion in mineral oil; 0.28 g, 7 mmol) in DMF (10 mL) at rt was added a solution of methyl 5-methoxy-2-{[3-methyl-1-(2-methylphenyl)-4-phenyl-1H-pyrazol-5-yl]amino}benzoate (1.495 g, 3.5 mmol) in DMF (15 mL) dropwise. The mixture was stirred for 0.5 h, and then iodomethane (0.88 mL, 14 mmol) was added. The reaction mixture was stirred at rt for 1 h. Water (100 mL) was cautiously added, and the mixture was extracted with ethyl acetate (25 mL×3). The combined organic phases were washed with a saturated solution of sodium bicarbonate (50 mL), dried (Na2SO4), filtered, and concentrated under reduced pressure. The residue was purified by silica gel flash chromatography (EtOAc/hexanes 1:12) to afford the title compound (1.18 g, 68%) as a pale yellow solid. 1H NMR (400 MHz, acetone-d6) δ 2.1 (s, 3H), 2.3 (s, 3H), 2.9 (s, 3H), 3.65 (s, 3H), 3.7 (s, 3H), 6.87-6.92 (m, 2H), 6.94-6.98 (m, 1H), 7.03-7.09 (m, 1H), 7.15-7.27 (m, 4H), 7.30-7.36 (m, 2H), 7.39-7.43 (m, 2H). ES-MS m/z 442.3 (MH+); HPLC RT (min) 3.96.

reactant | NaH | 7 mmol, 0.28 g | [H-].[Na+]
reactant | methyl 5-methoxy-2-{[3-methyl-1-(2-methylphenyl)-4-phenyl-1H-pyrazol-5-yl]amino}benzoate | 3.5 mmol, 1.495 g | COC=1C=CC(=C(C(=O)OC)C1)NC1=C(C(=NN1C1=C(C=CC=C1)C)C)C1=CC=CC=C1 | C26H25N3O3
reactant | iodomethane | 14 mmol, 0.88 mL | IC | CH3I
reactant | Water | 100 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | methyl 5-methoxy-2-{methyl[3-methyl-1-(2-methylphenyl)4-phenyl-1H-pyrazol-5-yl]amino}benzoate | 1.18 g, 68% | COC=1C=CC(=C(C(=O)OC)C1)N(C1=C(C(=NN1C1=C(C=CC=C1)C)C)C1=CC=CC=C1)C | C27H27N3O3
